US04548940
2-(3-Aminopropylamino)pyridine (0.91 g) and 5-(4-chlorobenzyl)-2-methylthio-4-pyrimidone (1.33 g) were fused together on a oil bath at 160° C. for 2.5 hr. The mixture was dissolved in hot ethanol. Cooling afforded a white solid which on recrystallisation from ethanol gave 5-(4-chlorobenzyl)-2-[3-(pyrid-2-ylamino)propylamino]-4-pyrimidone, (1.24 g; 67%) m.p. 168°-71° C.

reactant | 2-(3-Aminopropylamino)pyridine | 0.91 g | NCCCNC1=NC=CC=C1 | C8H13N3
reactant | 5-(4-chlorobenzyl)-2-methylthio-4-pyrimidone | 1.33 g | ClC1=CC=C(CC=2C(NC(=NC2)SC)=O)C=C1 | C12H11ClN2OS
solvent | ethanol | C(C)O | C2H6O
product | 5-(4-chlorobenzyl)-2-[3-(pyrid-2-ylamino)propylamino]-4-pyrimidone | ClC1=CC=C(CC=2C(NC(=NC2)NCCCNC2=NC=CC=C2)=O)C=C1 | C19H20ClN5O
